US05273982
115 mg of N-[[(S)-1-[p-[N-[(benzyloxy)carbonyl]-amidino]benzoyl]-2-pyrrolidinyl]acetyl]-β-alanine and 50 mg of Pd/C were stirred under hydrogen for 4 hours in 2.5 ml of acetic acid. The catalyst was filtered off and the solution was evaporated. The residue was dissolved in water, evaporated again and chromatographed on silica gel using methanol. 46 mg of N-[[(S)-1-(p-amidino-benzoyl)-2-pyrrolidinyl]acetyl]-β-alanine, m.p.>250° C., are obtained.

reactant | N-[[(S)-1-[p-[N-[(benzyloxy)carbonyl]-amidino]benzoyl]-2-pyrrolidinyl]acetyl]-β-alanine | 115 mg | C(C1=CC=CC=C1)OC(=O)NC(=N)C1=CC=C(C(=O)N2[C@@H](CCC2)CC(=O)NCCC(=O)O)C=C1 | C25H28N4O6
solvent | acetic acid | 2.5 ml | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | N-[[(S)-1-(p-amidino-benzoyl)-2-pyrrolidinyl]acetyl]-β-alanine | 46 mg | C(N)(=N)C1=CC=C(C(=O)N2[C@@H](CCC2)CC(=O)NCCC(=O)O)C=C1 | C17H22N4O4
